US09023889B2
Synthesis of (R)-2-((R)-3,4-dihydroxy-5-oxo-2,5-dihydrofuran-2-yl)-2-hydroxyethyl 2-phenyl-3H-benzimidazole-5-sulfonate
45.1 g of ascorbic acid (255.2 mmol; 3 eq.) are dissolved in 100 ml of DMF, 521 mg of 4-dimethylaminopyridine (4.27 mmol; 0.05 eq.) are added, and 25 g of 2-phenyl-3H-benzimidazole-5-sulfonyl chloride (85.4 mmol; 1 eq.), dissolved in 66 ml of DMF, are added dropwise at 0° C. The mixture is subsequently warmed to room temperature, and, after 6 hrs., 100 ml of water and 100 ml of chloroform are added, the mixture is extracted, dried, and the solvent is removed in vacuo. The residue is recrystallised from toluene, giving the product as a pale-beige solid.

reactant | ascorbic acid | 255.2 mmol, 45.1 g, 3 eq. | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | 2-phenyl-3H-benzimidazole-5-sulfonyl chloride | 85.4 mmol, 25 g, 1 eq. | C1(=CC=CC=C1)C=1NC2=C(N1)C=CC(=C2)S(=O)(=O)Cl | C13H9ClN2O2S
reactant | water | 100 ml | O | H2O
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 4.27 mmol, 521 mg, 0.05 eq. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 66 ml | CN(C)C=O | C3H7NO
product | (R)-2-((R)-3,4-dihydroxy-5-oxo-2,5-dihydrofuran-2-yl)-2-hydroxyethyl 2-phenyl-3H-benzimidazole-5-sulfonate | C1(=CC=CC=C1)C=1NC2=C(N1)C=CC(=C2)S(=O)(=O)OC[C@@H](O)[C@H]2OC(C(=C2O)O)=O | C19H16N2O8S
